Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weakness, diaphoresis
 
Major Surgical or Invasive Procedure:
Coronary angiography ___
 
History of Present Illness:
Mr. ___ is a ___ man with H/O hypertension and 
hyperlipidemia who presented after experiencing weakness and 
diaphoresis with a subsequent episode of unresponsiveness.

Mr. ___ traveled to ___ from ___ and was at a ___ 
game the night of presentation on ___. After the game, he 
walked with his family to a bar. During the 20 minute walk, he 
felt well with no specific symptoms. During the game, he had 
about 8 alcoholic drinks. Soon after arriving at the bar, he 
started feeling numbness in his neck with profuse diaphoresis. 
He did not feel pain in his chest, pain in his arm, nausea, 
shortness of breath, or palpitations. People around him told him 
he was very pale. Shortly after, he lost memory of what happened 
after he collapsed on the ground. According to his wife, he was 
unresponsive for a short duration until EMS arrived. A physician 
was present in the bar with him and his wife did not think the 
patient lost his pulse.

In the ED, initial vitals were HR 110, BP 60/43, RR 22, and O2 
sat 94% on O2 via NC. EKG was not noted to have evidence of 
STEMI by ED staff. Labs notable for initial troponin-T <0.01 and 
lactate 4.0. He received 2 L of NS and 1 L of D5LR. His second 
troponin-T was 0.05 and lactate trended down to 2.8. Decision 
was made to admit to cardiology for further work up.

After arrival to the cardiology ward, the patient felt OK with 
no symptoms, including chest pain, shortness of breath, or 
palpitations.

REVIEW OF SYSTEMS:  
Positive per HPI
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, or palpitations.
On further review of systems, he denied any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. He denied exertional 
buttock or calf pain, recent fevers, chills or rigors. All of 
the other review of systems were negative.
 
Past Medical History:
1. CAD RISK FACTORS
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- None
3. OTHER PAST MEDICAL HISTORY
- Gout
 
Social History:
___
Family History:
Significant for diabetes. No family history heart attacks or 
heart disease.
 
Physical Exam:
On admission
GENERAL: WDWN middle aged white man in NAD. Oriented x3. Mood, 
affect appropriate.
VS: T 98.2 BP 154/97 HR 80 RR 17 O2 SAT 96% on RA
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP of 6-7 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. Soft systolic murmur heard in the 
precordium. No thrills, lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Inspiratory crackles at 
both bases and diminished breath sounds throughout.
ABDOMEN: Soft, not-distended. No HSM or tenderness. Central 
adiposity.
EXTREMITIES: No lower extremity edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric.

At discharge
GENERAL: well appearing man in NAD
VS: Tm98.3 BP 110-132/68-77 HR ___ RR 20 SaO2 96% on RA
NECK: Supple, no evidence of JVD though hard to appreciate due 
to neck habitus
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmur 
appreciated though soft heart sounds likely due to body habitus
LUNGS: Resp unlabored, no accessory muscle use. Diffuse wheezing 
on upper lung fields
ABDOMEN: Soft. Abd obese. No HSM or tenderness.
EXTREMITIES: Trace edema around ankles
 
Pertinent Results:
___ 11:22PM BLOOD WBC-10.7* RBC-5.09 Hgb-15.6 Hct-46.5 
MCV-91 MCH-30.6 MCHC-33.5 RDW-12.4 RDWSD-41.1 Plt ___
___ 11:22PM BLOOD Neuts-45.9 ___ Monos-6.8 Eos-0.6* 
Baso-0.6 Im ___ AbsNeut-4.94 AbsLymp-4.75* AbsMono-0.73 
AbsEos-0.06 AbsBaso-0.06
___ 11:22PM BLOOD ___ PTT-26.1 ___

___ 11:22PM BLOOD Glucose-212* UreaN-19 Creat-1.2 Na-139 
K-3.6 Cl-94* HCO3-25 AnGap-24*
___ 11:22PM BLOOD ALT-19 AST-18 AlkPhos-68 TotBili-0.2
___ 11:22PM BLOOD Albumin-4.3
___ 11:22PM BLOOD Lipase-54
___ 11:22PM BLOOD proBNP-57

___ 11:22PM BLOOD CK(CPK)-84 CK-MB-2 cTropnT-<0.01
___ 05:12AM BLOOD CK(CPK)-92 CK-MB-4 cTropnT-0.05*
___ 11:50AM BLOOD CK(CPK)-83 CK-MB-4 cTropnT-0.02*

___ 07:02AM BLOOD %HbA1c-7.1* eAG-157*
___ 07:02AM BLOOD Calcium-9.5 Phos-3.2 Mg-1.9 Cholest-196
___ 07:02AM BLOOD Triglyc-227* HDL-43 CHOL/HD-4.6 
LDLcalc-108

___ 06:05AM BLOOD WBC-9.1 RBC-4.04* Hgb-12.6* Hct-38.5* 
MCV-95 MCH-31.2 MCHC-32.7 RDW-12.4 RDWSD-43.1 Plt ___
___ 06:05AM BLOOD ___ PTT-57.1* ___
___ 06:05AM BLOOD Glucose-147* UreaN-15 Creat-0.8 Na-139 
K-4.5 Cl-99 HCO3-27 AnGap-18
___ 06:05AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.9

ECG ___ 11:17:15 ___
Sinus tachycardia. Otherwise, normal ECG. No previous tracing 
available for
comparison.

CXR ___
Lordotic positioning. Possible background hyperinflation. The 
heart is not enlarged. The aorta may be slightly unfolded. There 
is upper zone redistribution, but no overt CHF. No focal 
infiltrate or effusion is identified. There is no focal 
consolidation, pleural effusion, or pneumothorax in the lungs. 
IMPRESSION: Upper zone redistribution noted, without overt CHF.  
Otherwise, no acute pulmonary process.

CTA Chest ___
CHEST:
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the subsegmental level without filling defect to indicate a 
pulmonary embolus. The thoracic aorta is normal in caliber 
without evidence of dissection or intramural hematoma. Aortic 
valvular calcifications are mild-to-moderate. The heart, 
pericardium, and great vessels are within normal limits. No 
pericardial effusion is seen.
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar lymphadenopathy is present. No mediastinal mass.
PLEURAL SPACES: No pleural effusion or pneumothorax.
LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal opacification. Paraseptal emphysema is mild, 
predominantly in the upper lungs. Bilateral lower lobe bronchial 
wall thickening is also mild. The airways are patent to the 
level of the segmental bronchi bilaterally.
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.
ABDOMEN:
HEPATOBILIARY: The liver demonstrates diffusely decreased 
attenuation throughout, but no structural abnormalities to 
suggest anything more than hepatic steatosis. There is no 
evidence of focal lesions. There is no evidence of intrahepatic 
or extrahepatic biliary dilatation. The gallbladder is within 
normal limits.
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation. There is no peripancreatic stranding.
SPLEEN: The spleen shows normal size and attenuation throughout, 
without evidence of focal lesions.
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. There is no evidence of focal renal lesions 
or hydronephrosis. There is no perinephric abnormality.
GASTROINTESTINAL: The stomach is unremarkable. Small bowel loops 
demonstrate normal caliber, wall thickness, and enhancement 
throughout.  Small duodenal diverticulum is noted. Mild 
diverticulosis of the colon is noted, without evidence of wall 
thickening and fat stranding. The appendix is normal. There is 
no free intraperitoneal fluid or free air.
PELVIS: The urinary bladder and distal ureters are unremarkable. 
There is no free fluid in the pelvis.
REPRODUCTIVE ORGANS: Prostate contains punctate calcifications.
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy. There is no pelvic or inguinal lymphadenopathy
VASCULAR: There is no abdominal aortic aneurysm. Minimal 
atherosclerotic disease is noted. 
BONES AND SOFT TISSUES: There is no evidence of worrisome 
osseous lesions or acute fracture. Multiple old right anterior 
rib fractures noted. The abdominal and pelvic wall is within 
normal limits.
IMPRESSION:
1. No evidence of pulmonary embolism or thoracic or abdominal 
aortic 
dissection.
2. Mild paraseptal emphysema and thickening of the small 
bronchi, compatible with small airway infection or inflammation.
3. No acute intra-abdominal or intrapelvic process to correlate 
with the patient's symptoms.
4. Fatty liver. 

Echocardiogram ___
    Aortic Valve - Peak Gradient: *54 mm Hg
    Aortic Valve - Mean Gradient: 34 mm Hg  
    Aortic Valve - Valve Area:    *1.1 cm2
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). No resting LVOT 
gradient. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic valve leaflets are 
mildly thickened (?#). There is moderate aortic valve stenosis 
(valve area 1.0-1.2cm2). Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion.

Coronary angiography ___
Coronary Anatomy
Dominance: Right
  Left main coronary artery: Normal
  Left anterior descending artery: The LAD had up to 40% 
stenosis in its mid portion. The proximal and distal LAD had 
minimal lumen irregularities. There was a large diagonal branch 
without disease.
  Left circumflex coronary artery: Normal proximal and distal 
segment. The LCx gives rise to a large OMB without disease. The 
distal LCx had minor irregularities but was a small vessel.
  Right coronary artery: The RCA was a large vessel with minimal 
lumen irregularities. There was a very large PDA and three RPL 
branches without disease.
Impressions:
1. Moderate aortic stenosis
2. Insignificant coronary artery disease
 
Brief Hospital Course:
Mr. ___ is a ___ man with H/O recent cigarette 
smoking, hypertension and hyperlipidemia who presented after 
experiencing weakness and diaphoresis with a subsequent episode 
of unresponsiveness (reportedly without loss of pulse). He was 
found to be hypotensive with subsequently elevated troponin and 
non-specific EKG ST-T wave changes suggestive of an NSTEMI.

# NSTEMI: The patient's long history of smoking along with 
hypertension and hyperlipidemia puts him at risk for CAD. His 
presentation was atypical for angina, but the profound 
diaphoresis and neck numbness could represent a symptomatic 
NSTEMI. CK-MB was normal, peak troponin-T 0.05, normal 
NT-Pro-BNP. Chest CTA showed no evidence of pulmonary embolism 
or thoracic or abdominal aortic dissection. Echocardiogram 
showed mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF 65%). 
Coronary angiography showed 40% stenosis of the mid LAD and 
luminal irregularities elsewhere. His CAD and NSTEMI were 
treated with medical management. He was discharged home on 
aspirin 81 mg daily, clopidogrel 75 mg daily, atorvastatin 80 mg 
daily, and metoprolol succinate 50 mg daily. Patient was given 
instructions to follow-up with cardiology and cardiac surgery as 
below.

# Aortic stenosis: Patient found to have moderate aortic 
stenosis with peak gradient 54 mm Hg and mean gradient 34 mm Hg 
with LVEF 65% and calculated ___ 1.1 cm2 on TTE. It was felt 
that the patient's presenting symptoms may have been due to 
worsening valve disease complicated by a type 2 NSTEMI (? vagal 
or dehydration with hypotension and secondary malperfusion of 
his coronary arteries exacerbated by the aortic stenosis and 
resultant left ventricular hypertrophy with increased wall 
stress and myocardial oxygen demand). Patient educated on new 
diagnosis and given instructions to follow-up with cardiology 
and cardiac surgery at the ___ 
given symptomatic moderate aortic stenosis. 

# Undiagnosed DM: Patient's blood sugars on admission were 
mildly elevated. A1c 7.1. Patient does not carry prior diagnosis 
of diabetes mellitus. He will need close PCP follow up for 
monitoring and management.

TRANSITIONAL ISSUES:
- NEW medications: atorvastatin 80 mg daily, clopidogrel 75 mg 
daily (expected duration ___ months for medical management of 
NSTMI, can stop earlier if needed), metoprolol succinate 50 mg 
daily
- STOPPED medications: pravastatin
- Patient will need close outpatient cardiology follow up for 
aortic stenosis (likely has bicuspid aortic valve), 
recommendations given to patient for a cardiologist
- Recommend outpatient stress test to better evaluated 
functional and hemodynamic significance of aortic stenosis
- Patient found to have A1c of 7.1, he will need to start a 
medication for diabetes mellitus.
- Patient found on chest CT to have mild paraseptal emphysema 
and thickening of the small bronchi, compatible with small 
airway infection or inflammation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. BuPROPion (Sustained Release) 100 mg PO BID 
4. Allopurinol ___ mg PO DAILY
 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 100 mg PO BID 
RX *bupropion HCl 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2
4. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*5
5. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5
6. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*5
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Syncope
- Non-ST segment elevation myocardial infarction
- Coronary artery disease
- Aortic stenosis, moderate
- Diabetes mellitus
- Hyperlipidemia
- Hypertension
- Gout
- Pulmonary emphysema
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after losing consciousness while at a 
bar. We found that you likely had a small heart attack. We 
performed a heart catheterization procedure, which found a small 
blockage, but nothing that required a stent. You will need to 
start some new medications to treat your coronary artery disease 
and to help reduce your risk of having a heart attack in the 
future. Last, we also highly recommend going to a cardiac rehab 
program, which will help you liver longer after an event like 
this.

We also performed an ultrasound of your heart, which showed 
narrowing of one of your heart valves, called aortic stenosis. 
In the right setting with sufficient narrowing and dehydration, 
aortic stenosis can cause a person to pass out as well. You will 
need to see a cardiologist as well as a cardiac surgeon when you 
return home to discuss whether a valve replacement would be 
appropriate for you. Please do your best to stay well hydrated 
in the meanwhile.

We also found that you have diabetes. You will need to see your 
primary care doctor to discuss starting a medication to treat 
your diabetes.

It was a pleasure to take care of you. We wish you the best,

Your ___ Cardiac Care Team
 
Followup Instructions:
___